US07419984B2
6-(5-Bromo-2-methyl-phenyl)-N*4*-(4-bromo-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 26, 4-(5-bromo-2-methyl-phenyl)-6-chloro-pyrimidin-2-ylamine and 4-bromo-phenylamine provided the title compound (91% yield). 1H NMR (DMSO-d6) δ 2.34 (s, 3H, CH3), 6.37 (s, 1H, Ar), 7.40 (d, 1H, J=8.9 Hz, Ar), 7.59 (d, 2H, J=8.7 Hz, Ar), 7.70-7.71 (m, 2H, Ar), 7.82-7.84 (m, 2H, Ar), 10.89 (br s, 1H, NH).

reactant | 4-(5-bromo-2-methyl-phenyl)-6-chloro-pyrimidin-2-ylamine | BrC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)C | C11H9BrClN3
reactant | 4-bromo-phenylamine | BrC1=CC=C(C=C1)N | C6H6BrN
product | 6-(5-Bromo-2-methyl-phenyl)-N*4*-(4-bromo-phenyl)-pyrimidine-2,4-diamine | 91% yield | BrC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Br)C | C17H14Br2N4
